US09085578B2
N-((6-bromopyridin-2-yl)methyl)formamide
N-((6-Bromopyridin-2-yl)methyl)-N-(2,4-dimethoxybenzyl)formamide obtained in Reference Example 20 (830 mg) and anisole (1.0 mL) were dissolved in formic acid (20 mL), and the solution was stirred at 100% for 8 hr. The mixture was allowed to be cooled to room temperature, and concentrated under reduced pressure. The residue was subjected to azeotropy with toluene, to the residue was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (basic silica gel, hexane/ethyl acetate) to give the title compound (279 mg).

reactant | N-((6-Bromopyridin-2-yl)methyl)-N-(2,4-dimethoxybenzyl)formamide | BrC1=CC=CC(=N1)CN(C=O)CC1=C(C=C(C=C1)OC)OC | C16H17BrN2O3
reactant | anisole | 1.0 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | formic acid | 20 mL | C(=O)O | CH2O2
product | N-((6-bromopyridin-2-yl)methyl)formamide | 279 mg | BrC1=CC=CC(=N1)CNC=O | C7H7BrN2O
